US04753934
(a) 3-Bromo-4-dimethylaminobenzophenone
22.5 g (0.1 mol) of 4-dimethylaminobenzophenone were dissolved in 60 ml of acetic acid, and then a solution of 5.3 ml (0.105 mol) of bromine in 20 ml of acetic acid was added dropwise thereto over a period of one hour, while stirring. The mixture was then stirred for 30 minutes more, and some water and some sodium bisulfite for decolorization were added. The greasy substance thus obtained was shaken with toluene/water, the toluene phase was washed twice more with water and dried, and the toluene was distilled off in vacuo. Yield: 24.4 g (80% of theory); viscous oil.

reactant | 4-dimethylaminobenzophenone | 0.1 mol, 22.5 g | CN(C1=CC=C(C(=O)C2=CC=CC=C2)C=C1)C | C15H15NO
reactant | bromine | 0.105 mol, 5.3 ml | BrBr | Br2
reactant | water | O | H2O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | toluene water | C1(=CC=CC=C1)C.O
product | 3-Bromo-4-dimethylaminobenzophenone | BrC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N(C)C | C15H14BrNO
